* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\ElementosSerie.asc
R1 N002 N001 75
C1 N002 0 5p
.backanno
.end
